US06166209
(1RS,3'SR)-1'-[3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-propyl]3'-methyl-spiro[isobenzofuran-1,4'-piperidin]-3-one (0.5 mmol) was dissolved in tetrahydrofurane and borane-THF-complex (1M solution in THF, 3 mmol) was added under argon. The resulting mixture was heated at reflux for 18 h. It was cooled to 0° C., and 1M HCl was added dropwise until no more gas evolution was observed. The mixture was concentrated in vacuo and HCl (1N, 5 ml) was added to the white foam obtained, and the resulting mixture was stired at 100° C. for 1 h. The solution was then cooled and basified with concentrated aqueous ammonia solution. The product was extracted into dichloromethane and purified by column chromatography over silicagel (ethylacetate). Addition of HCl in ethanol to a solution of the product in ethylacetate/ethanol yielded (1RS,3'SR)-1'-[3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-propyl]-3'-methyl-spiro[isobenzofuran-1,4'-piperidine] hydrochloride (0.18 g, 82%) as colorless solid, m.p. 225° C. and MS: m/e=438.4 (M+H+).

reactant | (1RS,3'SR)-1'-[3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-propyl]3'-methyl-spiro[isobenzofuran-1,4'-piperidin]-3-one | 0.5 mmol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCCN3CC(C2(CC3)OC(C3=CC=CC=C32)=O)C | C31H33NO2
reactant | borane THF | 3 mmol, 1M | B.C1CCOC1
reactant | HCl | 1M | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | (1RS,3'SR)-1'-[3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-propyl]-3'-methyl-spiro[isobenzofuran-1,4'-piperidine] hydrochloride | 0.18 g, 82% | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCCN3CC(C2(CC3)OCC3=CC=CC=C32)C | InChI=1S/C31H35NO.ClH/c1-23-21-32(20-18-31(23)30-15-7-4-11-26(30)22-33-31)19-8-14-29-27-12-5-2-9-24(27)16-17-25-10-3-6-13-28(25)29;/h2-7,9-13,15,23,29H,8,14,16-22H2,1H3;1H
